US08633189B2
A slurry of 2-(4-tert-butyl-3-methoxy-phenyl)isoindoline-1,3-dione (400 mg, 1.29 mmol) and NH2NH2 (207 mg, 203 μL, 6.47 mmol) in ethanol (10 mL) was refluxed for 3 h. The reaction was cooled and concentrated in vacuo. The residue was extracted with water (25 mL) and ethyl acetate (3×10 mL). The combined organic extracts were washed with water, dried over Na2SO4, filtered and concentrated. Purification by silica gel chromatography (25-40% ethyl acetate/hexanes) provided 4-tert-butyl-3-methoxy-aniline (190 mg, 82% yield) as light brown oil. 1H NMR (400.0 MHz, CDCl3) δ 6.97 (d, J=8.1 Hz, 1H), 6.17 (m, 2H), 3.71 (d, J=3.3 Hz, 3H), 3.53 (br s, 2H), 1.25 (d, J=3.3 Hz, 9H).

reactant | 2-(4-tert-butyl-3-methoxy-phenyl)isoindoline-1,3-dione | 1.29 mmol, 400 mg | C(C)(C)(C)C1=C(C=C(C=C1)N1C(C2=CC=CC=C2C1=O)=O)OC | C19H19NO3
reactant | NH2NH2 | 6.47 mmol, 203 μL, 207 mg | NN | H4N2
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 4-tert-butyl-3-methoxy-aniline | 190 mg, 82% yield | C(C)(C)(C)C1=C(C=C(N)C=C1)OC | C11H17NO
